US06509505B1
Preparation of 2,6-bis (2-Methylphenyl)-4-phenylphosphabenzene
The reaction was carried out twice using 15 g (35 mmol) each time of 2,6-bis(2-methylphenyl)-4-phenylpyrylium tetrafluoroborate in 150 ml of n-butanol. The two autoclave products obtained after the reaction with PH3 were combined and evaporated to about 50 ml under reduced pressure at about 80° C. The solid which precipitated was filtered off with suction, washed with n-pentane and subsequently dissolved in toluene. The toluene solution was then washed with water until the aqueous phase was neutral. After removal of the solvent, the residue was suspended in methanol, and dichloromethane was then added until the solid had completely dissolved. The resulting solution was evaporated under reduced pressure at about 40° C. until a solid precipitated. The solid was filtered off with suction, washed with a little n-pentane and subsequently dried in a high vacuum. Yield: 15.6 g (63%) of white solid.

reactant | 2,6-bis(2-methylphenyl)-4-phenylpyrylium tetrafluoroborate | F[B-](F)(F)F.CC1=C(C=CC=C1)C1=[O+]C(=CC(=C1)C1=CC=CC=C1)C1=C(C=CC=C1)C
reactant | PH3 | P | H3P
solvent | n-butanol | 150 ml | C(CCC)O | C4H10O
product | 2,6-bis (2-Methylphenyl)-4-phenylphosphabenzene | CC1=C(C=CC=C1)C1=PC(=CC(=C1)C1=CC=CC=C1)C1=C(C=CC=C1)C | C25H21P
